US08476253B2
Methyl 2-{3-([tert-butoxycarbonyl)(methyl)amino]propyl}-1-oxo-1,2,3,4-tetrahydroisoquinoline-6-carboxylate
The resulting tert-butyl [3-(6-hydroxy-1-oxo-3,4-dihydroisoquinolin-2(1H)-yl)propyl]methylcarbamate was dissolved in a mixed solvent (11 mL) of N,N-dimethylformamide and methanol (10:1), palladium acetate (65 mg, 0.291 mmol), 1,3-diphenylphosphinopropane (120 mg, 0.291 mmol) and triethylamine (0.405 mL, 2.91 mmol) were added, and the mixture was stirred at 65° C. under a carbon monoxide atmosphere for 16 hours. After the reaction was completed, water was added to the reaction mixture, and ethyl acetate was further added to separate the layers. The resulting organic layer was separated, washed with saturated sodium chloride solution, and then dried with anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate, 1:1, v/v) to give the title compound (535 mg; yield, 100%) as a colorless oily substance.

reactant | tert-butyl [3-(6-hydroxy-1-oxo-3,4-dihydroisoquinolin-2(1H)-yl)propyl]methylcarbamate | OC=1C=C2CCN(C(C2=CC1)=O)CCCN(C(OC(C)(C)C)=O)C | C18H26N2O4
reactant | 1,3-diphenylphosphinopropane | 0.291 mmol, 120 mg | C1(=CC=CC=C1)PCCCPC1=CC=CC=C1 | C15H18P2
reactant | triethylamine | 2.91 mmol, 0.405 mL | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 11 mL | CN(C=O)C | C3H7NO
solvent | methanol | CO | CH4O
catalyst | palladium acetate | 0.291 mmol, 65 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | Methyl 2-{3-([tert-butoxycarbonyl)(methyl)amino]propyl}-1-oxo-1,2,3,4-tetrahydroisoquinoline-6-carboxylate | 535 mg, 100% | C(C)(C)(C)OC(=O)N(CCCN1C(C2=CC=C(C=C2CC1)C(=O)OC)=O)C | C20H28N2O5
